datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:5],18.4933
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:16])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18],85.60464
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6][C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6](=[C:5]([H:9])[H:10])[C:7](=[C:8]([H:12])[H:13])[H:11],-0.4184
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])=[C:8]([C:9]([H:20])([H:21])[H:22])[H:19])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],142.465
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[c:10]1([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],123.01
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][H:12],2.5104
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]1([C:15]([H:16])([H:17])[H:18])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],43.8158
[C:0](=[O:1])([H:2])[H:3].[O:4][O:5][H:6]>>[C:0]([O:1])([H:2])([H:3])[O:4][O:5][H:6],94.7258
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([S:20][H:23])([H:21])[H:22]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19]([S:20][H:23])([H:21])[H:22],9.6232
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],68.9942
[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:11])[H:15])([H:8])([H:9])[H:10],120.026408
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([C:9]([C:10]([H:27])([H:28])[H:29])[H:26])[H:25])[H:13])([H:11])[H:12],73.7639
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])[H:7],-10.46
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]([C:8]([C:9]([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]1([H:21])[H:22])[H:10],66.5674
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21](=[C:22]([H:24])[H:25])[H:23],-3.7656
[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8].[S:0]=[C:1][S:2][H:4],91.6714
